US09120749B2
Cyclopropyl[4-{4-[(dimethylamino)methyl]piperidin-1-yl}-6-(3-ethoxy-4-hydroxyphenyl)quinolin-3-yl]methanone
Following general procedure D, (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone (30 mg, 0.072 mmol) was reacted with 2-ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (40 mg, 0.150 mmol) to afford the desired product (14.3 mg, 42%) as a yellow solid: NMR (500 MHz, CD3OD) δ 8.73 (s, 1H), 8.31 (d, J=1.7 Hz, 1H), 8.03 (m, 2H), 7.30 (d, J=2.1 Hz, 1H), 7.22 (dd, J=8.2, 2.1 Hz, 1H), 6.95 (d, J=8.2 Hz, 1H), 4.22 (q, J=7.0 Hz, 2H), 3.54 (d, J=12.6 Hz, 2H), 3.26-3.12 (m, 2H), 2.59-2.50 (m, 1H), 2.44 (s, 2H), 2.37 (s, 6H), 2.02-1.83 (m, 3H), 1.68-1.53 (m, 2H), 1.49 (t, J=7.0 Hz, 3H), 1.35-1.26 (m, 2H), 1.26-1.15 (m, 2H); ESI MS m/z 474 [C29H35N3O3+H]+; HPLC 96.9% (AUC), tR=10.59 min.

reactant | (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone | 0.072 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN(C)C | C21H26BrN3O
reactant | 2-ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 40 mg | C(C)OC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C14H21BO4
product | Cyclopropyl[4-{4-[(dimethylamino)methyl]piperidin-1-yl}-6-(3-ethoxy-4-hydroxyphenyl)quinolin-3-yl]methanone | 14.3 mg, 42% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N1CCC(CC1)CN(C)C)C1=CC(=C(C=C1)O)OCC | C29H35N3O3
